Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI Bleed, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy ___

 
History of Present Illness:
___ history of alcoholism who presents to ED as a transfer from 
___ for concern of upper GI bleed. Patient has a 
history of alcohol abuse. He went to the bar to drink at 
approximately 11:30, felt generally unwell with nausea and 
presyncope. He then had multiple episodes of "dark" liquid 
emesis, described as half a gallon in quantity, that looked like 
grape juice. ALso endorsed 1 day of dark tarry stool. 

Denies any history of prior melena or hematemesis. Has 
longstanding alcohol abuse for greater than ___ years. Denies a 
diagnosis of cirrhosis or varices. No prior EGDs. Last drink was 
yesterday. No history of withdrawal seizures or delirium 
tremens. Pt denies recent NSAID use or blood thinners, however 
pt's mom states he has chronic back pain and has been taking 
aleve. 

In the triage at ___ he was noted to be tremoulous with 
concern for possible seizure activity, for which he received IV 
Ativan. Initial labs at ___ notable for H/H 8.7/26.7, repeat 
H/H 7.0/21.3 L. Pt received 1 unit of PRBCs and ___ L of IVF and 
was transferred to ___ ED.

-In the ___ ED, initial vitals: T 98.0, P ___ BP 140/78 R 16 
O2 Sat 98% RA.
-Rectal exam notable for melena. 
-Labs showed an H/H 7.8/23.6, INR 1.1, chem 7 with a BUN 28, Cr 
0.5, AST 86, ALT 36, AP 119, T bili 1.5. Lip 34. Serum tox was 
negative. 
-Abdominal u/s showed hepatic steatosis
-the patient received an additional 1 unit of PRBCs, 
Pantoprazole 80mg IV, and 1 L of NS

  
On arrival to the MICU, pt endorses thirst, requesting water. 
States he is SOB due to thirst and feels like he is in a desert. 
Otherwise has no acute complaints.  

Review of systems:  
(+) Per HPI, cold sweats 
(-) Denies fever, chills,  

 
Past Medical History:
Alcohol Abuse  
 
Social History:
___
Family History:
-mother and father with HTN
 
Physical Exam:
ADMISSION EXAM:
====================
Vitals: T: 98.1 BP: 135/92 P: 98 R: 13 O2: 100% 2 L 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear  

NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no spider angiomas, no palmar erythema 
NEURO: CN II-XII intact 

DISCHARGE EXAM:
=====================
General: alert, oriented, comfortable appearing, no acute 
distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, crackles, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal, no 
asterixis 
Skin: Multiple tattoos, no palmar erythema
 
Pertinent Results:
ADMISSION LABS:
===================
___ 10:40PM BLOOD WBC-7.7 RBC-2.31* Hgb-7.8* Hct-23.6* 
MCV-102* MCH-33.8* MCHC-33.1 RDW-16.0* RDWSD-58.9* Plt ___
___ 10:40PM BLOOD Neuts-65.2 ___ Monos-9.7 Eos-0.0* 
Baso-0.4 Im ___ AbsNeut-5.02 AbsLymp-1.86 AbsMono-0.75 
AbsEos-0.00* AbsBaso-0.03
___ 10:40PM BLOOD ___ PTT-25.7 ___
___ 10:40PM BLOOD Glucose-129* UreaN-28* Creat-0.5 Na-141 
K-3.6 Cl-104 HCO3-25 AnGap-16
___ 10:40PM BLOOD ALT-36 AST-86* AlkPhos-119 TotBili-1.5
___ 10:40PM BLOOD Lipase-34
___ 10:40PM BLOOD Albumin-2.9* Calcium-8.0* Phos-2.9 Mg-1.7
___ 10:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:40PM BLOOD Lactate-1.9

PERTINENT LABS:
====================
___ 04:21AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE

___ 04:21AM BLOOD HCV Ab-NEGATIVE

DISCHARGE LABS:
====================
___ 07:04AM BLOOD WBC-4.3 RBC-2.57* Hgb-8.5* Hct-25.9* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-16.1* RDWSD-59.1* Plt ___
___ 07:04AM BLOOD Glucose-88 UreaN-5* Creat-0.6 Na-135 
K-3.5 Cl-103 HCO3-22 AnGap-14
___ 06:00AM BLOOD ALT-28 AST-77* LD(LDH)-219 AlkPhos-114 
TotBili-1.5
___ 07:04AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.9

IMAGING:
====================
ABD U/S (___):
1. Hepatic steatosis. 

MICROBIOLOGY:
====================
___ 10:10 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

EGD:
==========
Ulcer in the gastroesophageal junction (injection, thermal 
therapy)
Moderate esophagitis was noted.
Ulcer in the pylorus (injection, thermal therapy)
Erythema in the duodenal bulb compatible with duodenitis
No varices noted.
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
___ with history of alcoholism who presents to ED as a transfer 
from ___ with upper GI bleed, hematemesis, found to 
have ulcer in GE junction and pylorus, esophagitis and 
duodenitis. Patient was treated with IV PPI, Zofran, and 
monitored for signs of alcohol withdrawal. He was counseled to 
stop drinking alcohol. He was discharged home with plan for 
repeat endoscopy in 10 weeks. 

# Hematemesis/GI Bleed:
Patient presented with evidence of upper GI bleed, ___ 
score of 12 initially. He remained hemodynamically stable 
without further episodes of melena or hematemesis. EGD was 
performed on ___ which showed pyloric ulcer with visible 
vessel that was treated with cautery and epinephrine injection. 
Additionally there was a GE junction ulcer that was treated with 
cautery and epinephrine. He was kept on an IV PPI for 48 hours 
after EGD and then switched to oral PPI BID. He will need repeat 
endoscopy in 10 weeks. 

# Alcohol Abuse:

Patient with long history of alcohol abuse. Last drink ___. No 
history of withdrawal seizures or delirium tremens. Patient was 
started on CIWA protocol with diazepam with 
thiamine/folate/multivitamin supplementation. He received only 
one dose of diazepam and did not otherwise have withdrawal 
symptoms. He was counseled on importance of alcohol cessation 
and role in GI bleed. 

TRANSITIONAL ISSUES:
[ ] repeat CBC, on discharge 8.5/25.9
[ ] follow up pending EGD biopsies, stool h pylori antigen
[ ] continue to counsel patient on stopping alcohol use

#Code Status: full, confirmed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
4. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 gram 
powder(s) by mouth daily Refills:*0
6. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI Bleed
GE Junction Ulcer, Pyloric ulcer, duodenitis
Alcohol Abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your admission to 
___. You came into the hospital 
because of bleeding. We found that you had inflammation in your 
food tube (esophagus), your stomach, and your small intestine. 
We also found 2 ulcers. This is likely due to drinking alcohol 
and using medicines like ibuprofen. We strongly recommend that 
you cut back and stop drinking alcohol. 

We started you on a medication to stop the acid production in 
your stomach. You should take this twice a day on an empty 
stomach until you follow up with the GI doctors. 

Please continue to take your medications as directed and follow 
up with your doctors as ___ below. 

Be well and take care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___